US09447091B2
a) Ethyl 2-(pyrrolidin-1-yl)acetate
To a solution of pyrrolidine (1.2 g, 16.3 mmol, 1.0 eq) in DMF were added K2CO3 (5.63 g, 40.7 mmol, 2.5 eq.) and ethyl 2-bromoacetate (1.73 g, 24.4 mmol, 1.5 eq.). The mixture was stirred at RT for 16 h and quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to afford the product in 80% yield (2 g). LC-MS (ESI): Calculated mass: 157.2; Observed mass 158.1 [M+H]+ (rt: 0.2 min).

reactant | pyrrolidine | 16.3 mmol, 1.2 g, 1.0 eq | N1CCCC1 | C4H9N
reactant | K2CO3 | 40.7 mmol, 5.63 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoacetate | 24.4 mmol, 1.73 g, 1.5 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-(pyrrolidin-1-yl)acetate | 80% yield | N1(CCCC1)CC(=O)OCC | C8H15NO2
